US05208252
3-(1-Nitro-2-propyl)thiophene
When R2 is H the 3-(2-nitroethenyl)thiophene (1 eq) was suspended in hexane, cooled in an ice bath under nitrogen and slowly treated with 2N trimethylaluminum in hexane (2.6 eq). After 30 minutes, the solution was quenched with 3N HCl, diluted with ether and filtered. The organic layer was dried (Na2SO4) and condensed under reduced pressure to afford the crude product. This material was purified by flash silica gel column chromatography using 70% hexane in methylene chloride. The product was obtained as a colorless oil (80%); MH+ at m/z 172.

reactant | 3-(2-nitroethenyl)thiophene | 1 eq | [N+](=O)([O-])C=CC1=CSC=C1 | C6H5NO2S
reactant | trimethylaluminum | 2N | C[Al](C)C
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 2.6 eq | CCCCCC | C6H14
product | 3-(1-Nitro-2-propyl)thiophene | 80% | [N+](=O)([O-])CC(C)C1=CSC=C1 | C7H9NO2S
